US03965100
2,3-Dihydro-5-hydroxycyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one
A solution of 22.0 g of 2-amino-3-pyridinol, 62.4 g of ethyl cyclopentanone-2-carboxylate, and 200 ml of diethylbenzene is stirred and heated by means of oil bath maintained at ca. 150° for 1 hour, then gradually raised to 195°, and kept at 195° for 1 hour. Some tarry products are formed; hence the diethylbenzene solution is decanted from the tar and the diethylbenzene solution concentrated in vacuo. The residue, 29.8 g is recrystallized from 1400 ml of Skellysolve E to give 22.4 g of product, mp 136°-142°.

reactant | 2-amino-3-pyridinol | 22.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | ethyl cyclopentanone-2-carboxylate | 62.4 g | CCOC(=O)C1CCCC1=O | C8H12O3
solvent | diethylbenzene | 200 ml | C(C)C1=C(C=CC=C1)CC | C10H14
product | 2,3-Dihydro-5-hydroxycyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one | 22.4 g | OC1=CC=CN2C1=NC1=C(C2=O)CCC1 | C11H10N2O2
